US06117889
Preparation of N-carbomethoxy pyrrole (21)
Potassium (5.85 g, 0.15 mol) was added to a solution of 10 ml pyrrole (0.145 mol) in 80 ml hot cyclohexane in several portions. The mixture was refluxed for 1 hour. To this cold solution was added 15 g (0.16 mol) methyl chloroformate slowly. After addition, the mixture was stirred at room temperature for 30 minutes. During this period, 2.5 ml dimethyl sulfoxide was added for catalysis. After quenching with ice-water, the organic layer was separated and the aqueous layer extracted with ether. The combined organic layer was washed with 10% sodium bicarbonate, sat. sodium chloride and dried over magnesium sulfate. Removal of solvent yielded 17.4 g of a liquid. Bulb to bulb distillation gives 16.5 g N-carbomethoxy pyrrole 21 as a colorless liquid, yield 91%. The product requires storage at -20° C.

reactant | Potassium | 0.15 mol, 5.85 g | [K] | K
reactant | pyrrole | 0.145 mol, 10 ml | N1C=CC=C1 | C4H5N
reactant | methyl chloroformate | 0.16 mol, 15 g | ClC(=O)OC | C2H3ClO2
reactant | dimethyl sulfoxide | 2.5 ml | CS(=O)C | C2H6OS
solvent | cyclohexane | 80 ml | C1CCCCC1 | C6H12
product | N-carbomethoxy pyrrole | 17.4 g, yield 91% | C(=O)(OC)N1C=CC=C1 | C6H7NO2
